US07355052B2
Stage 1: 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl) amino]propyl}-1H-benzimidazol-2-yl)amino]benzoic acid
Lithium hydroxide (141 mg, 5 eq) is added to methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate prepared according to reaction diagram A, Example A1, (405 mg, 1 eq) in a mixture of tetrahydrofuran (4 ml) and water (3 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. Dichloromethane (50 ml) and water (20′ ml) are added to the residue. The mixture is acidified by the addition of acetic acid to pH 5. After decantation and extractions, the combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The solid obtained is taken up in ethyl ether in order to produce the expected compound (309 mg; 79%).

reactant | Lithium hydroxide | 141 mg, 5 eq | [OH-].[Li+]
reactant | methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C(=O)OC)C=C2)CCCNC(=O)OC(C)(C)C)C1)CCC(C)C)C | C34H49N5O5
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl) amino]propyl}-1H-benzimidazol-2-yl)amino]benzoic acid | 309 mg, 79% | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C(=O)O)C=C2)CCCNC(=O)OC(C)(C)C)C1)CCC(C)C)C | C33H47N5O5
